US07776910B2
3-[2-Ethoxycarbonyl-4-(3-fluoro-benzenesulfonyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (71 mg, 0.149 mmol) was dissolved in 2 ml of CH2Cl2. TFA (0.5 ml) was added and the mixture was stirred for 4 hours. The solution was concentrated under reduced pressure to give 5-(3-Fluoro-benzenesulfonyl)-2-pyrrolidin-3-yl-benzoic acid ethyl ester, MS (M+H)=378.

reactant | 3-[2-Ethoxycarbonyl-4-(3-fluoro-benzenesulfonyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.149 mmol, 71 mg | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)F)C(=O)OCC | C24H28FNO6S
reactant | TFA | 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 5-(3-Fluoro-benzenesulfonyl)-2-pyrrolidin-3-yl-benzoic acid ethyl ester | C(C)OC(C1=C(C=CC(=C1)S(=O)(=O)C1=CC(=CC=C1)F)C1CNCC1)=O | C19H20FNO4S
